.subckt XOR2 V1 V2 out Vcc
XU1 Vcc V1bar memristor
M1 V1bar V1 0 0 NMOS l=22.5nm w=1080nm
XU2 Vcc V2bar memristor
M2 V2bar V2 0 0 NMOS l=22.5nm w=1080nm
XU7 N004 N003 memristor
XU8 N004 N006 memristor
M11 Vcc N004 N005 Vcc PMOS l=45nm w=240nm
M12 N005 N004 0 0 NMOS l=45nm w=120nm
M13 Vcc N005 out Vcc PMOS l=45nm w=240nm
M14 out N005 0 0 NMOS l=45nm w=120nm
XU3 V1 N002 memristor
XU4 V2bar N002 memristor
M3 Vcc N002 N001 Vcc PMOS l=22.5nm w=1080nm
M4 N001 N002 0 0 NMOS l=360nm w=1080nm
M5 N003 N001 0 0 NMOS l=180nm w=360nm
M6 Vcc N001 N003 Vcc PMOS l=90nm w=360nm
XU5 V1bar N008 memristor
XU6 V2 N008 memristor
M7 Vcc N008 N007 Vcc PMOS l=22.5nm w=1080nm
M8 N007 N008 0 0 NMOS l=360nm w=1080nm
M9 N006 N007 0 0 NMOS l=180nm w=360nm
M10 Vcc N007 N006 Vcc PMOS l=90nm w=360nm
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\P V S Sukeerthi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100u
.lib memristor.sub
.backanno
.end

.subckt OR2 V1 V2 out Vcc
XU1 N001 V1 memristor
XU2 N001 V2 memristor
M1 Vcc N001 N002 Vcc PMOS l=180nm w=1080nm
M2 N002 N001 0 0 NMOS l=22.5nm w=1080nm
M3 Vcc N002 out Vcc PMOS
M4 out N002 0 0 NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\P V S Sukeerthi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 6u
* NOR Gate
.lib memristor.sub
.backanno
.end

.subckt NOT A Y Vcc
XU1 Vcc Y memristor
M1 Y A 0 0 NMOS l=22.5nm w=1080nm
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\P V S Sukeerthi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100m
.lib memristor.sub
.backanno
.end

.subckt 2 V1 V2 out Vcc
XU1 V1 N002 memristor
XU2 V2 N002 memristor
M1 Vcc N002 N001 Vcc PMOS l=22.5nm w=1080nm
M2 N001 N002 0 0 NMOS l=360nm w=1080nm
M3 out N001 0 0 NMOS l=180nm w=360nm
M4 Vcc N001 out Vcc PMOS l=90nm w=360nm
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\P V S Sukeerthi\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 80u
* NAND Gate
.lib memristor.sub
.backanno
.end
